US04371536
0.5 g of 4-methyl-β-carbolin-3-carboxylic acid ethyl ester (melting point 235°-239° C.) is dissolved in 25 ml of chloroform and 1.7 ml of pyridine and a solution of 1 ml of bromine in 21 ml of chloroform is added dropwise thereto at 0° C. After standing for one hour while cooling with ice and after dilution with 50 ml of the methylene chloride, the mixture is extracted by washing with sodium thiosulphate solution, dilute aqueous ammonia solution and water. After drying with sodium sulphate, filtering off and distilling off the solvent in vacuo, 6-bromo-4-methyl-β-carbolin-3-carboxylic acid ethyl ester is obtained in 38% yield, Melting point 231°-232° C. (from acetone).

reactant | 4-methyl-β-carbolin-3-carboxylic acid ethyl ester | 0.5 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC=C3C2C1C | C15H14N2O2
reactant | pyridine | 1.7 ml | N1=CC=CC=C1 | C5H5N
reactant | bromine | 1 ml | BrBr | Br2
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 21 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-bromo-4-methyl-β-carbolin-3-carboxylic acid ethyl ester | 38% yield | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1C)Br | C15H13BrN2O2
